US07713973B2
N-ethyl-N-(3-(2-isopropyl-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-7-yl)phenyl)methanesulfonamide
7-chloro-2-isopropyl-N-(5-methyl-1H-pyrazol-3-yl)imidazo[1,2-c]pyrimidin-5-amine (0.17 mmol, 0.05 g), 3-(N-ethylmethylsulfonamido)phenylboronic acid (0.35 mmol) and (Ph3)4 Pd (O) (0.086 mmol, 0.1 g) were stirred in dioxane (3 mL) and sat. K2CO3 (1.5 mL). The reaction mixture was heated to 150° C. using a microwave reactor for 20 minutes. The mixture was then concentrated and purified by LC-MS to give the title compound. 1 H NMR (400 MHz, DMSO-d6) δ ppm 1.06 (t, J=7.07 Hz, 3H) 1.35 (d, J=6.82 Hz, 6H) 2.29 (s, 3H) 3.04 (s, 3H) 3.76 (q, J=7.07 Hz, 2H) 6.70 (s, 1H) 7.57 (s, 1H) 7.59-7.67 (m, 2H) 8.11 (d, J=7.58 Hz, 1H) 8.17 (s, 1H) 8.45 (s, 1H) 10.80 (s, 1H) 12.35 (s, 1H); ESI-MS: m/z calc'd for C22H27N7O2S 453.56; found 454.4 (M+H)+.

reactant | 7-chloro-2-isopropyl-N-(5-methyl-1H-pyrazol-3-yl)imidazo[1,2-c]pyrimidin-5-amine | 0.17 mmol, 0.05 g | ClC1=CC=2N(C(=N1)NC1=NNC(=C1)C)C=C(N2)C(C)C | C13H15ClN6
reactant | 3-(N-ethylmethylsulfonamido)phenylboronic acid | 0.35 mmol | C(C)N(S(=O)(=O)C)C=1C=C(C=CC1)B(O)O | C9H14BNO4S
reactant | K2CO3 | 1.5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd | 0.086 mmol, 0.1 g | [Pd] | Pd
product | N-ethyl-N-(3-(2-isopropyl-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-7-yl)phenyl)methanesulfonamide | C(C)N(S(=O)(=O)C)C1=CC(=CC=C1)C1=CC=2N(C(=N1)NC1=NNC(=C1)C)C=C(N2)C(C)C | C22H27N7O2S
